US07015233B2
5-tert-butyl-1-indanone O-methyloxime
5-tert-Butyl-1-indanone (13.41 g, 71.23 mmol) and methoxyamine hydrochloride (6.68 g, 80 mmol) were disolved in pyridine (75 ml) and stirred at ambient temperature for 16 hours. The mixture was evaporated under reduced pressure and the residue was partitioned between water and diethyl ether (×2). The combined organic layers were washed with 1N aqueous hydrochloric acid, dried with magnesium sulfate, and the filtrate was evaporated under reduced pressure to provide the title compound which was used without further purification in the next step.

reactant | 5-tert-Butyl-1-indanone | 71.23 mmol, 13.41 g | C(C)(C)(C)C=1C=C2CCC(C2=CC1)=O | C13H16O
reactant | methoxyamine hydrochloride | 80 mmol, 6.68 g | Cl.CON
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 5-tert-butyl-1-indanone O-methyloxime | CON=C1CCC2=CC(=CC=C12)C(C)(C)C | C14H19NO
